Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
RUE radiculopathy 
 
Major Surgical or Invasive Procedure:
___: C6 corpectomy, C5-7 anterior fusion 

 
History of Present Illness:
Mr. ___ is a ___ male that slipped on the roof 
during work in ___.  Since then, he was having tightness in 
his neck and numbness in his right arm.  He also has pain 
radiating in C6 and C7 distribution.  The pain has resolved 
since ___, but he is having numbness and is dropping things 
with his hands.

He has not tried physical therapy, injections because of the 
imaging findings were worrisome for his primary care physician 
to refer him to a neurosurgeon immediately.  He has tried 
Percocet, Flexeril and NSAIDs.

Currently, he is left with right-sided grip strength weakness 
___ and numbness in II and III digit and thumb.

 
Past Medical History:
hypertension, depression, arthritis 
 
Social History:
___
Family History:
Positive for cancer in his grandmother
 
Physical ___:
On admission:
Mental status: Awake and alert, cooperative with exam, normal 
affect. Orientation: Oriented to person, place, and date.
Motor:
Right upper extremity is full strength in biceps, triceps, 
deltoid, wrist extension and flexion and ___ grip.
Her left upper extremity is full strength in biceps, triceps, 
deltoid, wrist extension and flexion and ___ grip.
Right lower extremity is full strength in hip flexion, knee 
extension, plantar flexion, dorsiflexion and extensor halluces 
longus. 
Left lower extremity is full strength in hip flexion, knee 
extension, plantar flexion, dorsiflexion and extensor halluces 
longus.
Sensation: Proprioception is intact and there is no ___ 
sign or clonus present. Numbness in C6 and C7 distribution.

At discharge:

Gen: WD/WN, comfortable, NAD.

HEENT: 
Pupils: PERRL     
EOMs: Intact
Neck: Supple. Incision is clean, dry, without evidence of 
erythema or breakdown

Extrem: Warm and well-perfused.

Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.

Motor:
      D    B     T    Grip   IP    Q  H     AT    ___    G

Sensation: Intact to light touch, continues to have right-sided 
numbness in C6 and C7 distribution.

 
Brief Hospital Course:
Mr. ___ was brought to the ___ on ___ for a C6 corpectomy 
and C5-7 anterior discectomy and fusion with Dr. ___. He 
was successfully extubated in the OR and transferred to the PACU 
in stable condition. 

NEURO: Patient remained neurologically stable throughout his 
hospitalization. Intraop x-ray showed good placement of screws. 
He continued to have right C6/7 distribution numbness, stable 
from pre-op. JP drain was placed intraoperatively and removed on 
___ without issue.

PULM: Patient had a difficult, traumatic intubation, however was 
successfully extubated without any respiratory issues. 

GI: His diet was advanced and well tolerated without nausea or 
vomiting. 

GU: Foley was removed and he was voiding on his own. 

ID: He remained afebrile. He was given post-op antibiotics with 
Ancef. Incision remained c/d/I. 

HEME: Pneumatic boots and SCH (starting POD#1) for DVT 
prophylaxis. 

DISPO: Patient was deemed stable for discharge on ___.
 
Medications on Admission:
Lisinopril, Flexeril, ibuprofen and citalopram.

 
Discharge Medications:
1. Citalopram 20 mg PO DAILY 
2. Cyclobenzaprine 10 mg PO TID:PRN pain 
3. Lisinopril 5 mg PO DAILY 
4. Acetaminophen 325-650 mg PO Q6H:PRN pain, fever 
5. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
6. Docusate Sodium 100 mg PO BID 
7. OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN pain  
RX *oxycodone 5 mg ___ tablet(s) by mouth every 6 hours as 
needed for pain Disp #*45 Tablet Refills:*0
8. Senna 8.6 mg PO BID:PRN constipation 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
cervical stenosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions

·     Your dressing covering the JP drain site may come off on 
the second day after surgery, ___. 

·     Your incision is closed with dissolvable sutures 
underneath the skin and steri strips. You do not need suture 
removal. 

·     Please keep your incision dry for 72 hours after surgery.

·     Please avoid swimming for two weeks.

·     Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

 

Activity

·     We recommend that you avoid heavy lifting, running, 
climbing, or other strenuous exercise until your follow-up 
appointment.

·     You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.

·     No driving while taking any narcotic or sedating 
medication. 

·     No contact sports until cleared by your neurosurgeon. 

·     Do  NOT smoke. Smoking can affect your healing and fusion.

 

Medications

·     Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 

·     Do not take any anti-inflammatory medications such as 
Motrin, Advil, Aspirin, and Ibuprofen etc… for 2 weeks.

·     You may use Acetaminophen (Tylenol) for minor discomfort 
if you are not otherwise restricted from taking this medication.

·     It is important to increase fluid intake while taking pain 
medications. We also recommend a stool softener like Colace. 
Pain medications can cause constipation. 

When to Call Your Doctor at ___ for:

·     Severe pain, swelling, redness or drainage from the 
incision site. 

·     Fever greater than 101.5 degrees Fahrenheit

·     New weakness or changes in sensation in your arms or legs.

 
Followup Instructions:
___